US04002647
18.2 g. of 7-ethyl-3-methyl-1,6-nonadien-3-ol, 100 ml. of hexane and 1 ml. of anhydrous pyridine are cooled to -15° C. and treated dropwise in the course of 1.5 hours with a solution of 4 ml. of phosphorus tribromide in 50 ml. of hexane, the temperature being maintained at between -15° C. and -10° C. The mixture is stirred for a further 1.5 hours during which time it is allowed to warm up to room temperature slowly. For working up, the mixture is poured onto 50 ml. of ice-water, the organic phase separated and washed in turn with 20 ml. of 10% by weight aqueous sodium carbonate solution, 50 ml. of semi-saturated aqueous sodium chloride solution and 50 ml. of saturated aqueous sodium chloride solution, dried over sodium sulfate and evaporated under reduced pressure. There is obtained 1-bromo-7-ethyl-3-methyl-2,6-nonadiene which is used in the process without further purification.

reactant | 7-ethyl-3-methyl-1,6-nonadien-3-ol | C(C)C(=CCCC(C=C)(O)C)CC | C12H22O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | hexane | CCCCCC | C6H14
product | 1-bromo-7-ethyl-3-methyl-2,6-nonadiene | BrCC=C(CCC=C(CC)CC)C | C12H21Br
